US09403798B2
4-[4-(4-Chlorophenyl)-4-hydroxy-piperidin-1-yl]1-{[5-(trifluoromethyl)thiophen-2-yl]methyl}1,3,5-triazin-2(1H)-one
A mixture (100 mg) of 4-[4-(4-Chlorophenyl)-4-hydroxypiperidin-1-yl]-1,3,5-triazin-2(1H)-one synthesized in Reference Synthesis Example 22a and 4-(4-hydroxy-4-phenylpiperidin-1-yl)-1,3,5-triazin-2(1H)-one, [5-(trifluoromethyl)thiophen-2-yl]methyl 4-methylbenzenesulfonate (558 mg, 0.65 mmol) synthesized in Reference Synthesis Example 51, and potassium carbonate (180 mg, 1.30 mmol) were used to obtain a mixture of compounds in Reference Synthesis Examples 92a and 92b being the title compounds (21 mg) by synthesis in a similar manner to Reference Synthesis Example 91.

reactant | 4-[4-(4-Chlorophenyl)-4-hydroxypiperidin-1-yl]-1,3,5-triazin-2(1H)-one | 100 mg | ClC1=CC=C(C=C1)C1(CCN(CC1)C1=NC(NC=N1)=O)O | C14H15ClN4O2
reactant | 4-(4-hydroxy-4-phenylpiperidin-1-yl)-1,3,5-triazin-2(1H)-one | OC1(CCN(CC1)C1=NC(NC=N1)=O)C1=CC=CC=C1 | C14H16N4O2
reactant | [5-(trifluoromethyl)thiophen-2-yl]methyl 4-methylbenzenesulfonate | 0.65 mmol, 558 mg | CC1=CC=C(C=C1)S(=O)(=O)OCC=1SC(=CC1)C(F)(F)F | C13H11F3O3S2
reactant | potassium carbonate | 1.30 mmol, 180 mg | C([O-])([O-])=O.[K+].[K+]
product | 4-[4-(4-Chlorophenyl)-4-hydroxy-piperidin-1-yl]1-{[5-(trifluoromethyl)thiophen-2-yl]methyl}1,3,5-triazin-2(1H)-one | ClC1=CC=C(C=C1)C1(CCN(CC1)C1=NC(N(C=N1)CC=1SC(=CC1)C(F)(F)F)=O)O | C20H18ClF3N4O2S
